US07544835B2
2-Isopropoxy-3-(4-{2-[(4-methoxyphenyl)carbamoyloxy]ethyl}phenyl)propanoic acid
Using ethyl 3-[4-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and 4-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[4-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | OCCC1=CC=C(C=C1)CC(C(=O)OCC)OC(C)C | C16H24O4
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | 2-Isopropoxy-3-(4-{2-[(4-methoxyphenyl)carbamoyloxy]ethyl}phenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC=C(C=C1)CCOC(NC1=CC=C(C=C1)OC)=O | C22H27NO6
